US07994167B2
1. Synthesis of 1-(3-chloro-pyridin-2-yl)-piperazine
Piperazine (15 g, 174 mmol) was dissolved in dimethyl sulphoxide (309 g) and to this was added 2,3-dichloropyridine (23.4 g, 158 mmol). The reaction mixture was stirred for 60 h at 110° C. Portions of saturated aqueous sodium hydrogencarbonate solution (overall 250 ml) were added to the reaction mixture and the precipitate produced was drawn off. The filtrate was extracted several times with ethyl acetate (150 ml each time) and the cleaned organic phase was dried and the solvent was removed under vacuum. The residue was distilled at 2×10−1 mbar. The product was obtained at an overhead temperature of 95° C. and a bottom temperature of 155° C. Yield: 9.6 g (28% of the theoretical amount).

reactant | Piperazine | 174 mmol, 15 g | N1CCNCC1 | C4H10N2
reactant | 2,3-dichloropyridine | 158 mmol, 23.4 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | sodium hydrogencarbonate | 250 ml | C(O)([O-])=O.[Na+]
solvent | dimethyl sulphoxide | 309 g | CS(=O)C | C2H6OS
product | 1-(3-chloro-pyridin-2-yl)-piperazine | ClC=1C(=NC=CC1)N1CCNCC1 | C9H12ClN3
